US08207350B2
3-hydroxyquinoline
3-Bromoquinoline (5.0 g, 24.03 mmoL) was dissolved in anhydrous ether and cooled to −78° C. It was then treated with n-butyllithium (10.57 mL, 26.43 mmoL, 2.5M in hexanes) by slow addition over 30 min. The reaction was stirred at −78° C. for 30 min then it was treated with trimethylborate (2.50 g, 24.03 mmoL) by slow addition over 10-15 min. The reaction was then allowed to stir at 0° C. for 45 min then at room temperature for 15 min. The reaction was then cooled back to −78° C. and treated with peracetic acid (5.49 g, 26.44 mmoL) and stirred at room temperature for 20 hr. The reaction was diluted with H2O (40 mL) and solid sodium bisulfite was added until the peroxides were destroyed as indicated with peroxide test strips. The layers were separated and the aqueous layer extracted with ethyl acetate (2×50 mL). The organic layer was concentrated in vacuo and the residue was azeodried with toluene (4×50 mL). The residue was triturated with toluene and the solids were collected by vacuum filtration to give 1.43 g (41%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.29 (s, 1H) 8.58 (d, J=2.57 Hz, 1H) 7.85-7.95 (m, 1H) 7.72-7.83 (m, 1H) 7.40-7.57 (m, 3H). MS m/z (DCI) 146.0 (M+H)+.

reactant | 3-Bromoquinoline | 5.0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | n-butyllithium | 2.5M, 10.57 mL | C(CCC)[Li]
reactant | trimethylborate | 2.50 g | COB(OC)OC | C3H9BO3
reactant | peracetic acid | 5.49 g | C(C)(=O)OO | C2H4O3
solvent | ether | CCOCC | C4H10O
solvent | H2O | 40 mL | O | H2O
solvent | sodium bisulfite | S([O-])(O)=O.[Na+]
product | 3-hydroxyquinoline | 1.43 g, 41% | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
